*********************************************************************************
*										*
*	    ,o888888o.    888888888888.   88888888888888 88888888888888		*
*	   8888     `88.  888888    `88.  888888         888888         	*
*	,888888       `8. 888888     `88  888888         888888         	*
*	8888888           888888     ,88  888888         888888         	*
*	8888888           888888.   ,88'  88888888888888 88888888888888 	*
*	8888888           888888888888'   888888         888888         	*
*	8888888           888888`8b       888888         888888         	*
*	`888888       .8' 888888 `8b.     888888         888888         	*
*	   8888     ,88'  888888   `8b.   888888         888888         	*
*	    `8888888P'    888888     `88. 88888888888888 88888888888888		*
*										*
*********************************************************************************
*******************************************************************************
**	DISCLAIMER
*******************************************************************************
**	This model is provided as is, where is, and with no warranty of any kind
**	either expressed or implied, including but not limited to any implied 
**	warranties of merchantability and fitness for a particular purpose.
*******************************************************************************

***********************************************************
****	Cree SiC MOSFET C2M0040120D Spice Library 
****	Version 1.0 Date: 11-28-2016
****	Version 2.0 Date: 01-22-2018
****	Version 3.0 Date: 06-19-2018
***********************************************************
****	Revision record
****	Version Beta	Initial Release
****	Version 1	Included model number at subcircuit to avoid library overlapping when two Modfet models called
****	Version 2	This spice model is compatible to both Ltspice and Orcad Pspsice
****	Version 3	Update the thermal RC model
*********************************************************************************
****Parasitics Included
****Tj = Junction Temperature
****Tc = Case Temperature
****D = Drain
****G = Gate
****S = Source
***********************************************************

.subckt C2M0040120D d g s Tj Tc

xgmos	d1 g1 s1 Tj Tc gmos_C2M0040120D 

Ls 		s	s1	11n
R_Ls 		s	s1      10
Rg 		g1	g2	1.8
Lg 		g	g3	15n
R_Lg		g	g3	10
Ld 		d	d3      6n
R_Ld		d	d3	10

G1		d2	d1      value {(V(d2,d1))/((0.0000009581*((V(Tj))**2)+0.0000828095*(V(Tj))+0.0304)+1n)}
R_A		d2	d1	1E12
Vgate_s		g3	g2	0
Vdrain_s	d3	d2	0
Gheat		0	Tj	value {abs((V(d,s)*I(Vdrain_s)))+abs((V(g1,g2)*I(Vgate_s)))}
XCGD		d1	g1	cgdmos_C2M0040120D 
CGS		g1	s1	1876.384p
CDS		d2	s1	60p
D1		s1	d2	bodydiode_C2M0040120D
D2		s1	d2	bodydiode_C2M0040120D
D3		s1	d2	bodydiode_C2M0040120D
R0 N1 Tj 7.54m
R1 N2 N1 17.6m
R2 N3 N2 36.5m
R3 N4 N3 38.8m
R4 N5 N4 14.8m
R5 N6 N5 29.4m
R6 N7 N6 25.8m
R7 N8 N7 28.8m
R8 N9 N8 36m
R9 N10 N9 50.4m
R10 N11 N10 49.1m
R11 N12 N11 28.4m
R12 N13 N12 10.5m
R13 Tc N13 4.51m
C0 Tj 0 1.75m
C1 N1 0 5.21m
C2 N2 0 12m
C3 N3 0 5.9m
C4 N4 0 21.5m
C5 N5 0 41.6m
C6 N6 0 57.1m
C7 N7 0 77m
C8 N8 0 0.106
C9 N9 0 0.109
C10 N10 0 0.113
C11 N11 0 0.206
C12 N12 0 0.894
C13 N13 0 17

.ends C2M0040120D 
*****************************************

.subckt gmos_C2M0040120D d1 g1 s1 Tj Tc

.param Adj = 0.42
e2		NET1	0	Value {(-0.0122690476*(V(Tj))+14.9839166667)}
R_B		NET1	0 	1E12

e3		NET2	0	Value {((0.0000218811*((V(Tj))**2)-0.0177913141*(V(Tj))+8.3281636956)*Adj)}
R_C		NET2	0 	1E12

.param p3  = 7
.param p4  = 0.0257											
.param p5  = 2.09
.param p6  = 2.0
.param p7  = 0.5
.param p8  = 0.001
.param p9  = {2*p3*p4}
.param p10 = {p9*p4}
.param p11 = -10
.param p12 = 25

R100 g2 s1	1e9
E100 g2 s1 	value {limit(V(g1,s1),p11,p12)} 
G1 d1 s1 value {
+	if(V(d1,s1)<0,
+		-p10*V(NET1,0)*((log(1+exp((v(g2,s1)-V(NET2,0))/p9)))**p5)
+		*(1+p8*v(s1,d1))
+		,
+		p10*V(NET1,0)*((log(1+exp((v(g2,s1)-V(NET2,0))/p9)))**p5)
+		*(1+p8*v(d1,s1))
+		)
+			}
G2 d1 s1 value {
+	if(V(d1,s1)<0,
+		p10*V(NET1,0)*((log(1+exp((v(g2,s1)-V(NET2,0)-p6*(v(s1,d1))**p7)/p9)))**p5)
+		*(1+p8*v(s1,d1))
+		,
+		-p10*V(NET1,0)*((log(1+exp((v(g2,s1)-V(NET2,0)-p6*(v(d1,s1))**p7)/p9)))**p5)
+		*(1+p8*v(d1,s1))
+		)
+			}

.ends gmos_C2M0040120D
****************************************

.model bodydiode_C2M0040120D d(is=1e-4 cjo=573.713p bv=1600 m=0.6 EG=3.26 vj=3.82 n=13.2 
+	rs=0.044  trs1=-0.0046833036 trs2=0.0000171023 Tnom=25
+	tt=15n ibv=500u Xti=40 level=1)
****************************************

.subckt cgdmos_C2M0040120D d2 g
.param k1=857.672p
.param k2=0.5
.param ka=18.096
.param kb=0.2678
.param kc=7.5277
G11 g d1 value {
+		k1*(
+		(1+(limit(v(d1,g),0,500))*(1+ka*(1+TANH(kb*V(d1,g)-kc))/2))**-k2
+		)*ddt(v(g,d1))
+			}
R_CGD d1 d2 1e-3
C_CGD g d1 1p
.ends cgdmos_C2M0040120D
***************************************
                               